US06762201B1
b) tert-Butyl 3-[N-(tert-butoxycarbonyl)-N-phenethylamino]methyl-4-nitrobenzoate
Di-tert-butyl dicarbonate (2.10 g, 9.62 mmole) was added all at once to a solution of tert-butyl 3-(phenethylamino)methyl-4-nitrobenzoate (2.86 g, 8.02 mmole) in CHCl3 (30 mL) at RT. The reaction was stirred at RT For 2.5 hr, then at reflux for 0.5 hr. Concentration and flash chromatography on silica gel (15% EtOAc/hexanes) gave the title compound (3.70 g, quantitative) as a yellow oil: 1H NMR (250 MHz, CDCl3) δ 7.85-8.10 (m, 3H), 7.05-7.40 (m, 5H), 4.55-4.85 (m, 2H), 3.35-3.60 (m, 2H), 2.75-3.00 (m, 2H), 1.20-1.80 (m, 18H); MS (ES) m/e 479 (M+Na)+, 457 (M+H)+.

reactant | Di-tert-butyl dicarbonate | 9.62 mmole, 2.10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tert-butyl 3-(phenethylamino)methyl-4-nitrobenzoate | 8.02 mmole, 2.86 g | C(CC1=CC=CC=C1)NCC=1C=C(C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C20H24N2O4
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl 3-[N-(tert-butoxycarbonyl)-N-phenethylamino]methyl-4-nitrobenzoate | 3.70 g | C(C)(C)(C)OC(=O)N(CCC1=CC=CC=C1)CC=1C=C(C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C25H32N2O6
